US07956191B2
2-bromo-N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-5-[(2-fluoro-4-iodophenyl)-amino]isonicotinamide was synthesized as described in General Method 3: to a solution of 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid (145.0 mg, 0.33 mmol) in DMF (1.5 ml) was added 1,1′-carbonylbis(1H-imidazole) (60 mg, 0.36 mmol). The reaction mixture was stirred at room temperature under argon for 6 hrs. Then, O-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]hydroxylamine (125 mg 0.83 mmol) was added, and stirred overnight. The reaction mixture was poured into water (10 ml). Extracted with EtOAc(3×15 ml), the combined organic layer was washed with brine (2×15 ml), and dried over MgSO4. The solvent was evaporated, and the residue was purified on silica gel column (Hex:EtOAc=3:1) to obtain 104 mg (55%) of 2-bromo-N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-5-[(2-fluoro-4-iodophenyl)-amino] isonicotinamide.LC/MS:10.43 min, 566, 568.

reactant | 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid | 0.33 mmol, 145.0 mg | BrC=1C=C(C(=O)O)C(=CN1)NC1=C(C=C(C=C1)I)F | C12H7BrFIN2O2
reactant | 1,1′-carbonylbis(1H-imidazole) | 0.36 mmol, 60 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]hydroxylamine | 0.83 mmol, 125 mg | CC1(OCC(O1)CON)C | C6H13NO3
reactant | water | 10 ml | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 2-bromo-N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-5-[(2-fluoro-4-iodophenyl)-amino] isonicotinamide | 104 mg, 55% | BrC=1C=C(C(=O)NOC[C@@H]2OC(OC2)(C)C)C(=CN1)NC1=C(C=C(C=C1)I)F | C18H18BrFIN3O4
